US08012976B2
A mixture of methyl 2,3-bis(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (90 mg, 0.12 mmol) in hydrazine monohydrate (5 mL) and methanol (2 mL) was stirred at 25° C. for 4 hr. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by prep-HPLC to give 8,9-bis(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (3.2 mg, yield: 4%) as a white solid. 1H-NMR (400 MHz, CD3OD) δ: 0.95-0.97 (q, 12H), 2.80-2.88 (m, 2H), 2.98-3.08 (m, 3H), 3.33-3.53 (m, 13H), 4.23-4.26 (d, J=10.4 Hz, 1H), 4.62-4.64 (d, J=10.0 Hz, 1H), 7.02-7.46 (m, 11H); LC-MS (ESI) m/z: 704(M+1)+.

reactant | methyl 2,3-bis(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.12 mmol, 90 mg | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1NC=2C=CC=C(C2C(C1C1=CC(=CC=C1)C(=O)N1CCN(CC1)C(C(C)C)=O)=O)C(=O)OC | C41H47N5O7
reactant | hydrazine monohydrate | 5 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 8,9-bis(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 3.2 mg, yield: 4% | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC(=CC=C1)C(=O)N1CCN(CC1)C(C(C)C)=O | C40H45N7O5
